US07772285B2
3.83 g of silver nitrate was dissolved in 10 mL of water, to which a solution of 1.81 g of sodium hydroxide in 10 mL of water was added dropwise and then a solution of 2.00 g of 2-methyl-1,3-benzothiazole-5-carbaldehyde in 20 mL of tetrahydrofuran was added dropwise at room temperature, and this solution was stirred for 30 minutes at the same temperature. The reaction mixture was filtered through Celite, and 6M hydrochloric acid was added to the filtrate to adjust its pH value to 3.5 followed by addition of ethyl acetate, and then the organic phase was separated therefrom. After the resultant organic phase was washed with a saturated sodium chloride solution, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was dissolved in 30 mL of methylene chloride, to which 20 μL of N,N-dimethylformamide and 1.5 mL of oxalyl chloride were added successively, and this solution was stirred for 30 minutes at room temperature. The reaction mixture, to which 20 mL of methanol was added dropwise, was stirred for 30 minutes at room temperature, and after water was added thereto, the pH value of this mixture was adjusted to 7 with a 5M solution of sodium hydroxide in water, and then the organic phase was separated therefrom. After the resultant organic phase was washed with a saturated sodium chloride solution, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure to yield 1.90 g of methyl 2-methyl-1,3-benzothiazole-5-carboxylate as light yellow solid.

reactant | sodium hydroxide | 1.81 g | [OH-].[Na+]
reactant | 2-methyl-1,3-benzothiazole-5-carbaldehyde | 2.00 g | CC=1SC2=C(N1)C=C(C=C2)C=O | C9H7NOS
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
catalyst | silver nitrate | 3.83 g | [N+](=O)([O-])[O-].[Ag+]
product | methyl 2-methyl-1,3-benzothiazole-5-carboxylate | 1.90 g | CC=1SC2=C(N1)C=C(C=C2)C(=O)OC | C10H9NO2S
